US08455477B2
Into a 5,000 ml 3-necked roundbottom flask, was placed a solution of (1-benzylpyrrolidin-2-yl)methanol (250. g, 1.30 mol) in chloroform (2,500 ml). This was followed by the dropwise addition of a solution of thionyl chloride (232. g, 1.95 mol) in chloroform (500 ml), while maintaining the internal temperature at room temperature (60 minute addition time). The resulting solution was heated to reflux for 2 hours. After cooling to ambient temperature, the mixture was concentrated, and the resulting residue was dissolved in 3,000 ml of ethyl acetate. Adjustment of the pH to 7 was accomplished by the addition of triethylamine. The resulting mixture was filtered and the filtrate was concentrated and the residue was purified by flash column chromatography (ethylacetate/petroleum ether gradient) to afford 1-benzyl-2-(chloromethyl)pyrrolidine.

reactant | (1-benzylpyrrolidin-2-yl)methanol | 1.30 mol | C(C1=CC=CC=C1)N1C(CCC1)CO | C12H17NO
reactant | thionyl chloride | 1.95 mol | S(=O)(Cl)Cl | Cl2OS
solvent | chloroform | 2,500 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 500 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-benzyl-2-(chloromethyl)pyrrolidine | C(C1=CC=CC=C1)N1C(CCC1)CCl | C12H16ClN
